US09428508B2
2′,4′-dichloro-7′-(4-methoxybenzyl)-6′,7′-dihydrospiro[cyclopropane-1,5′-pyrrolo[2,3-d]pyrimidine]
To a solution of 2′,4′-dichloro-7′-(4-methoxybenzyl)spiro[cyclopropane-1,5′-pyrrolo[2,3-d]pyrimidin]-6′(7′H)-one (14.0 g, 40.0 mmol) in tetrahydrofuran (200 mL) was added 94% Borane-methyl sulfide complex (8.2 mL, 80.0 mmol) dropwise under nitrogen atmosphere. After the addition was over, the reaction mixture was heated to 60° C. overnight. When the reaction was completed, methanol was added to the reaction solution at 0° C., concentrated in vacuum and the residue was purified by silica gel chromatography to afford the product as a white solid (8.4 g, yield 62.4%). 1H NMR (400 MHz, CDCl3) δ ppm 7.20 (d, J=8.6 Hz, 2H), 6.91-6.86 (m, 2H), 4.59 (s, 2H), 3.81 (s, 3H), 3.48 (s, 2H), 1.71 (q, J=4.9 Hz, 2H), 0.82 (q, J=4.9 Hz, 2H).

reactant | 2′,4′-dichloro-7′-(4-methoxybenzyl)spiro[cyclopropane-1,5′-pyrrolo[2,3-d]pyrimidin]-6′(7′H)-one | 40.0 mmol, 14.0 g | ClC=1N=C(C2=C(N1)N(C(C21CC1)=O)CC1=CC=C(C=C1)OC)Cl | C16H13Cl2N3O2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2′,4′-dichloro-7′-(4-methoxybenzyl)-6′,7′-dihydrospiro[cyclopropane-1,5′-pyrrolo[2,3-d]pyrimidine] | 8.4 g, yield 62.4% | ClC=1N=C(C2=C(N1)N(CC21CC1)CC1=CC=C(C=C1)OC)Cl | C16H15Cl2N3O
